US07034056B2
(3,5-Dichloro-phenyl)-carbamic acid 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propyl ester
To a solution of 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propan-1-ol (100 mg, 0.37 mmol) in CH2Cl2 (2 mL) was added 3,5-dichloro-phenylisocyanate (70 mg, 0.37 mmol) and the mixture was stirred at room temperature for 16 h. The mixture was concentrated to give a light brown oil, which was then purified by silica gel chromatography (5–10% MeOH/DCM gradient) to afford the title compound (3,5-dichloro-phenyl)-carbamic acid 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propyl ester as a white solid, 131 mg (91%). 1H NMR (300 MHz, CD3OD): δ 8.77 (dd, 2H), 7.72 (d, 2H), 7.58 (m, 3H), 7.48 (d, 2H), 7.12 (t, 1H), 5.94 (t, 1H), 2.49 (m, 2H). 2.36 (s, 6H), 2.33 (m, 1H), 2.21 (m, 1H); MS(ESI): 444.1 (M+1), 446.1 (M+3).

reactant | 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propan-1-ol | 0.37 mmol, 100 mg | CN(CCC(O)C1=CC=C(C=C1)C1=CC=NC=C1)C | C16H20N2O
reactant | 3,5-dichloro-phenylisocyanate | 0.37 mmol, 70 mg | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3,5-dichloro-phenyl)-carbamic acid 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propyl ester | CN(CCC(C1=CC=C(C=C1)C1=CC=NC=C1)OC(NC1=CC(=CC(=C1)Cl)Cl)=O)C | C23H23Cl2N3O2
